US06310079B1
1. (E)-4-Methyl-2-styryl-1H-benzimidazole
A mixture of 2,3-diaminotoluene (2.44 g, 20 mmol), (E)-cinnamic acid (2.96 g, 20 mmol) and polyphosphoric acid (10 g) was heated to 180° C. for 90 min. The hot mixture was poured into water (100 ml), basified with 50% aqueous solution of sodium hydroxide and extracted with dichloromethane (3×100 ml). The combined extracts were washed with water (100 ml) and brine (100 ml), dried (magnesium sulfate) and concentrated to dryness. Purification by column chromatography (silica gel, 300 g; n-hexane/ethyl acetate (7/3)) yielded 0.61 g (13%) of the titled compound as red solids.

reactant | 2,3-diaminotoluene | 20 mmol, 2.44 g | NC1=C(C=CC=C1N)C | C7H10N2
reactant | (E)-cinnamic acid | 20 mmol, 2.96 g | C(\C=C\C1=CC=CC=C1)(=O)O | C9H8O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | (E)-4-Methyl-2-styryl-1H-benzimidazole | 0.61 g, 13% | CC1=CC=CC=2NC(=NC21)\C=C\C2=CC=CC=C2 | C16H14N2
